US06703347B2
A mixture of N-(4-chloro-3-methylisothiazol-5-yl)-2-(3-amino-4-hydroxyphenyl)propionamide (0.65 g, 0.002 mol), 3,3,3-trifluoropropionic acid (0.267 g, 0.002 mol) and 1-(3-diethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.40 g, 0.002 mol) was stirred in N,N-dimethylacetamide (8 ml) at room temperature for 7 hours and was then allowed to stand at room temperature overnight. The reaction was quenched with water and extracted with ethyl acetate. The organic extract was washed with water, dried over anhydrous magnesium sulfate, filtered and the filtrate was evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with ethyl acetate:hexane 1:1, to give N-(4-chloro-3-methylisothiazol-5-yl)-2-[4-hydroxy-3-(3,3,3-trifluoropropionamido)phenyl]propionamide (0.62 g) as a white solid.

reactant | N-(4-chloro-3-methylisothiazol-5-yl)-2-(3-amino-4-hydroxyphenyl)propionamide | 0.002 mol, 0.65 g | ClC=1C(=NSC1NC(C(C)C1=CC(=C(C=C1)O)N)=O)C | C13H14ClN3O2S
reactant | 3,3,3-trifluoropropionic acid | 0.002 mol, 0.267 g | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | 1-(3-diethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.002 mol, 0.40 g | Cl.C(C)N(CCCN=C=NCC)CC
solvent | N,N-dimethylacetamide | 8 ml | CN(C(C)=O)C | C4H9NO
product | N-(4-chloro-3-methylisothiazol-5-yl)-2-[4-hydroxy-3-(3,3,3-trifluoropropionamido)phenyl]propionamide | 0.62 g | ClC=1C(=NSC1NC(C(C)C1=CC(=C(C=C1)O)NC(CC(F)(F)F)=O)=O)C | C16H15ClF3N3O3S
